US05278316
N-[(2-Adamantyloxy)carbonyl]-α-methyl-D-tryptophan methyl ester
To a stirred solution of 2-adamantylchloroformate (0.965 g, 4.5 mmol) in dry THF (10 mL) was added a solution of α-methyl-D-tryptophan methyl ester (0.928 g, 4 mmol) in dry THF (20 mL) followed by a solution of triethylamine (0.808 g, 8 mmol) in dry THF (20 mL) dropwise. After 15 minutes, the reaction mixture was filtered, the solvent removed in vacuo and column chromatographed using 2% MeOH: 98% CH2Cl2 as eluant to yield the title compound (1.42 g, 89%) as a syrup. IR (film) 1740-1695 b.r cm-1 ; NMR (CDCl3) δ 1.50-1.60 (2H, m), 1.67 (3H, s), 1.70-2.10 (12H, m), 3.38 (1H, d, J=14.5 Hz), 3.50-3.60 (1H, br.s), 3.68 (3H, s), 4.86 (1H, br.s), 5.28 (1H, br.s), 6.93 (1H, d, J 2.4 Hz); 7.04-7.10 (2H, m), 7.33 (1H, d, J 8.2 Hz) 7.54 (1H, d, J 7.8 Hz), 8.18 (1H, br.s).

reactant | 2-adamantylchloroformate | 4.5 mmol, 0.965 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)Cl | C11H15ClO2
reactant | α-methyl-D-tryptophan methyl ester | 4 mmol, 0.928 g | COC([C@](N)(CC1=CNC2=CC=CC=C12)C)=O | C13H16N2O2
reactant | triethylamine | 8 mmol, 0.808 g | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-[(2-Adamantyloxy)carbonyl]-α-methyl-D-tryptophan methyl ester | 1.42 g, 89% | COC([C@](NC(=O)OC1C2CC3CC(CC1C3)C2)(CC2=CNC3=CC=CC=C23)C)=O | C24H30N2O4
